US05612352
Oxalyl chloride (1.72 ml) and dry dimethylformamide (2 drops) were added to a stirred suspension of 4'-benzyloxy-4-biphenylcarboxylic acid (3.04 g) in dry dichloromethane (100 ml). The reaction mixture was stirred for 12 hours at ambient temperature. The mixture was evaporated to dryness. Triphenylphosphine (5.2 g) and bis(triphenylphosphine) copper [I] tetrahydroborate (6.0 g) was added to a solution of the crude product in acetone (150 ml). The mixture was stirred at ambient temperature for 2 hours. The mixture was filtered and the filtrate evaporated. The residue was purified by medium pressure chromatography on silica gel using a mixture of 20% dichloromethane/hexane to remove less polar impurities, followed by ethyl acetate as eluant to give 4'-benzyloxy-4-biphenylcarboxaldehyde as a colourless solid (41% yield), m.p. 122°-123° C., NMR (CDCl3): 5.1 (2H, s), 7.1 (2H, d), 7.4-7.6 (7H, m), 7.7-7.9 (4H, d of d), and 10.0 (1H, s); m/z 289 (M+H).

reactant | Oxalyl chloride | 1.72 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4'-benzyloxy-4-biphenylcarboxylic acid | 3.04 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C20H16O3
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4'-benzyloxy-4-biphenylcarboxaldehyde | 41% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C20H16O2
